US07767677B2
Synthesis of (1-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-pyridazin-3-yl}imidazolidin-2-one)
A mixture of 1-(2-chloroethyl)-3-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-pyridazin-3-yl}urea (0.296 g, 0.650 mmol), potassium hydroxide (0.364 g, 0.650 mmol), in BuOH (20 mL) was refluxed overnight. The reaction mixture was concentrated and purified by column chromatography. The title compound was obtained as a light yellow powder in 71% yield (0.213 g). 1H NMR (300 MHz, CDCl3) δ 8.43 (d, J=9.9 Hz, 1H), 7.72 (d, J=7.8 Hz, 1H), 7.48-1.64 (m, 2H), 7.34 (d, J=7.5 Hz, 1H), 7.01 (d, J=9.9 Hz, 1H), 4.91-5.12 (br., 1H), 4.22 (t, J=7.8 Hz, 1H), 3.82-4.03 (m, 2H), 3.43-3.65 (m, 6H), 3.31 (t, J=5.7 Hz, 2H).

reactant | 1-(2-chloroethyl)-3-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-pyridazin-3-yl}urea | 0.650 mmol, 0.296 g | ClCCNC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C19H20ClF3N6O2
reactant | potassium hydroxide | 0.650 mmol, 0.364 g | [OH-].[K+]
solvent | BuOH | 20 mL | C(CCC)O | C4H10O
product | 1-{6-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-pyridazin-3-yl}imidazolidin-2-one | 71% yield | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)N2C(NCC2)=O)C=CC=C1)(F)F | C19H19F3N6O2
